US09102673B2
Step 2: 4-(3-Ethoxyphenyl)-1-(2-{[6-(trifluoromethyl)pyridin-3-yl]oxy}ethyl)-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid
Methyl 4-(3-ethoxyphenyl)-1-(2-hydroxyethyl)-1H-pyrrolo[3,2-c]pyridine-2-carboxylate (30 mg, 0.088 mmole), 6-(trifluoromethyl)pyridine-3-ol (19 mg, 0.116 mmole), and PS-triphenylphosphine resin (116 mg, 0.264 mmole) were combined in a screw cap vial. To this was added THF (1 mL) and DIAD (0.022 mL, 0.115 mmole) at RT. After stirring overnight the mixture was filtered washing with CH2Cl2 and concentrated. The residue was taken up in THF (1 mL). To this was added 2M NaOH (0.132 mL, 0.264 mmole) then the mixture was heated to 60° C. After 3 hr the mixture was cooled to RT and concentrated. The crude material was taken up in DMSO and acidified with TFA. The resulting solution was purified by preparative reversed-phase HPLC (21×100 mm Phenomenex AXIA-Gemini-NX, 15%-40% CH3CN/water containing 0.1% TFA over 18 min at 20 mL/min) to give the title compound (39 mg, 76%) as a white solid. 1H NMR (499 MHz, DMSO): δ 8.57 (d, J=6.7 Hz, 1 H); 8.46 (s, 1 H); 8.19 (s, 1H); 7.99 (d, J=8.8 Hz, 1 H); 7.63-7.55 (m, 2 H); 7.48-7.44 (m, 2 H); 7.27 (d, J=8.2 Hz, 1 H); 6.79 (d, J=8.7 Hz, 1 H); 5.18 (m, 2 H); 4.80 (m, 2 H); 4.16 (q, J=7.0 Hz, 2 H); 1.38 (t, J=6.9 Hz, 3 H). HRMS (ESI) calc (M+H)+=472.1479. found 472.1459.

reactant | Methyl 4-(3-ethoxyphenyl)-1-(2-hydroxyethyl)-1H-pyrrolo[3,2-c]pyridine-2-carboxylate | 0.088 mmole, 30 mg | C(C)OC=1C=C(C=CC1)C1=NC=CC2=C1C=C(N2CCO)C(=O)OC | C19H20N2O4
reactant | 6-(trifluoromethyl)pyridine-3-ol | 0.116 mmole, 19 mg | FC(C1=CC=C(C=N1)O)(F)F | C6H4F3NO
reactant | triphenylphosphine resin | 0.264 mmole, 116 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DIAD | 0.115 mmole, 0.022 mL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | NaOH | 0.264 mmole, 2M, 0.132 mL | [OH-].[Na+]
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 4-(3-Ethoxyphenyl)-1-(2-{[6-(trifluoromethyl)pyridin-3-yl]oxy}ethyl)-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid | 39 mg, 76% | C(C)OC=1C=C(C=CC1)C1=NC=CC2=C1C=C(N2CCOC=2C=NC(=CC2)C(F)(F)F)C(=O)O | C24H20F3N3O4
